US06828335B2
Preparation of 2-(6-methoxy-1H-inden-3-yl)propanoic acid
This substrate was prepared using the same procedures as described for Examples 1 and 2a, starting with 5-methoxyl-1-indanone and methyl 2-bromopropionate.

reactant | 5-methoxyl-1-indanone | O(C)C=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | methyl 2-bromopropionate | BrC(C(=O)OC)C | C4H7BrO2
product | 2-(6-methoxy-1H-inden-3-yl)propanoic acid | COC1=CC=C2C(=CCC2=C1)C(C(=O)O)C | C13H14O3
